US06559174B2
To a solution N-BOC-1,3-dihydro-2H-isoindole-1-carboxylic acid, methyl ester (38 mmol) and MeI (10 mL, 160 mmol) in 150 mL of anhydrous THF at −30° C. was added LDA (Aldrich, 1.5 M in cyclohexane, 51 mL, 76.5 mmol). The reaction was allowed to warm up to rt over 4 hr. The reaction was cooled to −30° C., and was quenched with saturated aqueous solution of NH4Cl (50 mL). The resulting mixture was partitioned between EtOAc and brine, and the product was extracted with EtOAc (3×100 mL). The combined extracts were dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluted with 10:1 to 5:1 hexane/ether to afford N-BOC-1,3-dihydro-1-methyl-2H-isoindole-1 -carboxylic acid, methyl ester.

reactant | N-BOC-1,3-dihydro-2H-isoindole-1-carboxylic acid, methyl ester | 38 mmol | C(=O)(OC(C)(C)C)N1C(C2=CC=CC=C2C1)C(=O)OC | C15H19NO4
reactant | MeI | 160 mmol, 10 mL | CI | CH3I
reactant | LDA | 76.5 mmol, 1.5 M, 51 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | N-BOC-1,3-dihydro-1-methyl-2H-isoindole-1 -carboxylic acid, methyl ester | C(=O)(OC(C)(C)C)N1C(C2=CC=CC=C2C1)(C(=O)OC)C | C16H21NO4
